US07622583B2
A mixture of 4-chloro-N-[2-(2-chloro-benzoyl)-5-methyl-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (260 mg, 0.49 mmol) in 4M HCl in dioxane (5 mL) and water (1 mL) was refluxed for 3 h. Reaction mixture was cooled to room temperature, evaporated to dryness and treated with saturated aqueous NaHCO3 solution till pH 7-8. The mixture was extracted with EtOAc (2×25 mL), dried (anhydrous Na2SO4) and concentrated. The obtained residue was purified by flash chromatography (SiO2, 70% EtOAc-hexanes) to afford 4-chloro-N-[2-(2-chloro-benzoyl)-5-methyl-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide (106 mg) as a white solid (after lyophilization) in 45% yield. ESMS m/z (relative intensity): 489 (M+H)+ (100).

reactant | 4-chloro-N-[2-(2-chloro-benzoyl)-5-methyl-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 0.49 mmol, 260 mg | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)C)C(C1=C(C=CC=C1)Cl)=O)C(F)(F)F | C22H17Cl2F3N2O4S
reactant | water | 1 mL | O | H2O
solvent | HCl | 4M | Cl | ClH
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 4-chloro-N-[2-(2-chloro-benzoyl)-5-methyl-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide | 106 mg, 45% yield | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)C)C(C1=C(C=CC=C1)Cl)=O)C(F)(F)F | C20H13Cl2F3N2O3S
